US07858781B2
(1) 1-(2-Hydroxy-ethyl)-piperidin-4-ol (22)
Piperidin-4-ol (5 g, 49.4 mmol) is dissolved in 200 ml of ethanol and anhydrous sodium carbonate (21 g, 197.6 mmol) is added. 2-Bromo-ethanol (6.9 ml, 98.8 mmol) is added dropwise and the reaction mixture is refluxed for 16 hours. After evaporation under reduced pressure the mixture is stirred with 200 ml of DCM and filtered. The clear filtrate is evaporated under reduced pressure and dried at high vacuum.

reactant | Piperidin-4-ol | 49.4 mmol, 5 g | N1CCC(CC1)O | C5H11NO
reactant | sodium carbonate | 197.6 mmol, 21 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-Bromo-ethanol | 98.8 mmol, 6.9 ml | BrCCO | C2H5BrO
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 1-(2-Hydroxy-ethyl)-piperidin-4-ol | OCCN1CCC(CC1)O | C7H15NO2
